* D:\General Data\Files\Projects\1) Major Projects\SOAR PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Main circuit.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N023 0 PULSE(0 48 0 10m 2m 200m 500m 2) Rser=100m
V§BATT_1 N024 0 PULSE(0 16.8 20m 10m 10m 500m 750m 2) Rser=60m
V§BATT_2 N025 0 PULSE(0 16.8 20m 10m 10m 810m 11 1) Rser=60m
R1 Umbilical_priority_comparator UMBILICAL 68000
R2 Umbilical_priority_comparator 0 8500
B§UMBILICAL_Noise N001 N023 V=white(2e4*time) / 13
BATT_1_Noise N009 N024 V=white(2e4*time) / 13
BATT_2_Noise N016 N025 V=white(2e4*time) / 13
C7 N038 0 1n
C8 N033 0 4.7µ Rser=1.5m
X§U1 N029 N033 N029 N038 N033 0 ADM7170-5.0
C1 N007 0 220µ Rser=0.1
C13 LOGIC_POWER 0 1µ
C14 LOGIC_POWER 0 1µ
C16 LOGIC_POWER 0 1µ
C17 LOGIC_POWER 0 1µ
C24 LOGIC_POWER 0 1µ
C26 LOGIC_POWER 0 0.1µ
C27 LOGIC_POWER 0 0.1µ
C28 LOGIC_POWER 0 0.1µ
C29 LOGIC_POWER 0 0.1µ
C30 LOGIC_POWER 0 0.1µ
C3 LOGIC_POWER 0 1µ
C37 LOGIC_POWER 0 0.1µ
C5 LOGIC_POWER 0 1µ
C6 LOGIC_POWER 0 1µ
C9 LOGIC_POWER 0 1µ
C32 LOGIC_POWER 0 1µ
C39 LOGIC_POWER 0 0.1µ
C40 LOGIC_POWER 0 0.1µ
C41 LOGIC_POWER 0 0.1µ
C42 LOGIC_POWER 0 0.1µ
R13 LOGIC_POWER N033 0.0001
X§U15 N010 N019 0 Umbilical_gate_control_logic_output Deny_signal UMBILICAL_gate_drive N017 N005 N011 LTC7001
R11 N019 0 67857
M4 N004 UMBILICAL_gate_drive N005 N005 IPA180N10N3
M5 OUTPUT_RAIL UMBILICAL_gate_drive N005 N005 IPA180N10N3
D7 N010 N011 RF071MM2S
C20 N026 0 20n
R20 UMBILICAL_gate_drive N026 10
X§U14 N034 N040 0 BATT_1_gate_control_logic_output Deny_signal BATT_1_gate_drive N039 N032 N035 LTC7001
M2 N031 BATT_1_gate_drive N032 N032 IPA180N10N3
M3 OUTPUT_RAIL BATT_1_gate_drive N032 N032 IPA180N10N3
D3 N034 N035 RF071MM2S
C21 N041 0 20n
R17 BATT_1_gate_drive N041 10
X§U16 N054 N060 0 BATT_2_gate_control_signal_logic_output Deny_signal BATT_2_gate_drive N058 N050 N055 LTC7001
M8 N049 BATT_2_gate_drive N050 N050 IPA180N10N3
M9 OUTPUT_RAIL BATT_2_gate_drive N050 N050 IPA180N10N3
D8 N054 N055 RF071MM2S
R23 BATT_2_gate_drive N058 500
C23 N063 0 20n
R24 BATT_2_gate_drive N063 10
D9 0 N005 D
D10 0 N032 D
D11 0 N050 D
D12 0 Deny_signal UMZ5_1N
R14 N040 0 67857
D13 0 Deny_signal UMZ5_1N
R22 N060 0 67857
D14 0 Deny_signal UMZ5_1N
R27 N004 UMBILICAL 0.00001
R28 N031 BATT_1 0.00001
R29 N049 BATT_2 0.001
C33 LOGIC_POWER 0 1µ
C34 LOGIC_POWER 0 1µ
C35 LOGIC_POWER 0 1µ
C43 LOGIC_POWER 0 0.1µ
C44 LOGIC_POWER 0 0.1µ
C45 LOGIC_POWER 0 0.1µ
C36 N007 0 100n
C46 N007 0 100p
R30 N007 N006 0.00001
X§U17 Umbilical_turn_on BATT_1_turn_on BATT_2_turn_on BATT_2_turn_on BATT_2_turn_on N042 SN74LVC1G332DBVR
X§U2 5V N042 N042 RESET_GATE N043 NC_01 SN74LVC2G74DCUR
X§U4 5V N002 N002 N013 Umbilical_turn_on NC_02 SN74LVC2G74DCUR
C12 N012 0 2.2n
R16 N012 N002 10000
R33 N002 0 68000
X§U6 5V N021 N021 N028 BATT_1_turn_on NC_03 SN74LVC2G74DCUR
R35 N027 N021 10000
R36 N021 0 68000
X§U19 5V N030 N030 N037 BATT_2_turn_on NC_04 SN74LVC2G74DCUR
R37 N036 N030 10000
R38 N030 0 68000
X§U21 N036 N037 SN74LVC1G14DBVR
X§U22 N027 N028 SN74LVC1G14DBVR
V2 5V 0 5
X§U5 N012 N013 SN74LVC1G14DBVR
X§U18 Umbilical_priority_comparator LOGIC_POWER LOGIC_POWER N003 TLV1851DBVR
X§U20 BATT_1_priority_comparator LOGIC_POWER LOGIC_POWER N015 TLV1851DBVR
X§U23 BATT_2_priority_comparator LOGIC_POWER LOGIC_POWER N022 TLV1851DBVR
X§U26 N003 N008 SN74LVC1G14DBVR
X§U27 N015 N018 SN74LVC1G14DBVR
X§U12 N057 OUTPUT_RAIL_comparator LOGIC_POWER N052 TLV1851DBVR
X§U28 N062 OUTPUT_RAIL_comparator LOGIC_POWER N059 TLV1851DBVR
X§U30 N066 OUTPUT_RAIL_comparator LOGIC_POWER N064 TLV1851DBVR
R41 N047 0 10e4
R42 N047 N046 0.00001
X§U31 N045 N051 N053 NC_05 NC_06 N046 SN74LVC1G332DBVR
C51 N048 0 2.2n
R43 N048 N047 4700
X§U32 N048 RESET_GATE SN74LVC1G14DBVR
D5 BATT_2 N029 MMSD4148
D6 BATT_1 N029 MMSD4148
D15 UMBILICAL N029 MMSD4148
R7 BATT_1_priority_comparator 0 4778
R9 BATT_1 BATT_1_priority_comparator 10000
R3 UMBILICAL N056 68000
R4 N056 0 68000
R46 OUTPUT_RAIL N044 68000
R47 N044 0 68000
C11 N057 0 1n
R48 N056 N057 330
R6 BATT_1 N061 68000
R31 N061 0 68000
C47 N062 0 1n
R32 N061 N062 330
R34 BATT_2 N065 68000
R49 N065 0 68000
C52 N066 0 1n
R50 N065 N066 330
C53 OUTPUT_RAIL_comparator 0 1n
R51 N044 OUTPUT_RAIL_comparator 330
R52 N006 OUTPUT_RAIL 0.00001
C4 LOGIC_POWER 0 1µ
C38 LOGIC_POWER 0 1µ
C54 LOGIC_POWER 0 0.1µ
C55 LOGIC_POWER 0 0.1µ
C57 LOGIC_POWER 0 1µ
C58 LOGIC_POWER 0 1µ
C59 LOGIC_POWER 0 1µ
C60 LOGIC_POWER 0 0.1µ
C61 LOGIC_POWER 0 0.1µ
C62 LOGIC_POWER 0 0.1µ
C63 LOGIC_POWER 0 1µ
C64 LOGIC_POWER 0 0.1µ
C25 LOGIC_POWER 0 1µ
C31 LOGIC_POWER 0 1µ
C65 LOGIC_POWER 0 1µ
C66 LOGIC_POWER 0 1µ
C67 LOGIC_POWER 0 0.1µ
C68 LOGIC_POWER 0 0.1µ
C69 LOGIC_POWER 0 0.1µ
C70 LOGIC_POWER 0 0.1µ
C71 LOGIC_POWER 0 1µ
C72 LOGIC_POWER 0 1µ
C74 LOGIC_POWER 0 0.1µ
C75 LOGIC_POWER 0 0.1µ
X§U3 N043 Umbilical_gate_control_logic_output N052 N052 N052 N045 SN74LVC1G08DBVR
X§U7 N043 BATT_1_gate_control_logic_output N059 N059 N059 N051 SN74LVC1G08DBVR
X§U8 N043 BATT_2_gate_control_signal_logic_output N064 N064 N064 N053 SN74LVC1G08DBVR
X§U9 N008 N015 N015 N015 N015 N014 SN74LVC1G08DBVR
X§U10 N008 N018 N022 N022 N022 N020 SN74LVC1G08DBVR
R40 BATT_2_gate_control_signal_logic_output N020 0.00001
R53 BATT_1_gate_control_logic_output N014 0.00001
R54 Umbilical_gate_control_logic_output N003 0.00001
R§Deny_signal_current_sense Deny_signal N043 0.00001
R56 N034 LOGIC_POWER 0.000001
R57 N054 LOGIC_POWER 0.000001
R58 N010 LOGIC_POWER 0.000001
C50 N027 0 2.2n
C56 N036 0 2.2n
A2 Umbilical_gate_control_logic_output 0 0 0 0 0 N002 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1, Trise = 2ns
A1 BATT_1_gate_control_logic_output 0 0 0 0 0 N021 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
A3 BATT_2_gate_control_signal_logic_output 0 0 0 0 0 N030 0 SCHMITT Vhigh = 4.9, Vlow = 0.1, Vt = 2.5, Vh =1
C22 N005 N011 1µ
C18 N032 N035 1µ
C49 N050 N055 1µ
B1 N006 0 I = {cur}
C19 N007 0 330µ Rser=0.1
L1 UMBILICAL N001 {para_L}
L2 BATT_1 N009 {para_L}
L3 BATT_2 N016 {para_L}
R10 UMBILICAL_gate_drive N017 1000
R15 BATT_1_gate_drive N039 500
R5 BATT_2 BATT_2_priority_comparator 10000
R18 BATT_2_priority_comparator 0 4778
C2 Umbilical_priority_comparator 0 10n
C10 BATT_1_priority_comparator 0 10n
C15 BATT_2_priority_comparator 0 10n
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 900m
* OR Gate power bypass caps
* Schmitt inverter power bypass caps
* LTC7001 power bypass caps
* POWER INPUTS & LOGIC 5V POWER CONVERTER
* SWITCHING CIRCUIT
* POWER SOURCE LOAD SWITCHES AND GATE DIRVERS
* OUTPUT RAIL
* Priority switching circuit
* Switching event sensing circuits
* Power input comparator debounce circuits
* Output rail comparator debounce circuit
* Cross conduction prevention circuit
* Back to back NMOS switches and their gate drives
* Power inputs
* 5V converter for logic circuitry
* Logic IC bypass capacitors
* Dflop power bypass caps
* AND Gate power bypass caps
* Comparator power bypass caps
.params para_L = 10p
.step param cur list 5 12.1
.lib ADM7170-5.0.sub
.lib LTC7001.sub
.lib SN74LVC1G08DBVR.sub
.lib SN74LVC1G14DBVR.sub
.lib SN74LVC1G332DBVR.sub
.lib SN74LVC2G74DCUR.sub
.lib TLV1851DBVR.sub
.backanno
.end
